* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 18.4
R1 n1 a 1
R2 a nc 4
V2 nc nd DC 26.2
R3 nd ne 1
V3 b ne DC 15.5
V4 nf b DC 11.1
R4 nf 0 1
.op
.print dc V(a) V(b)
.end